US20010016269A1
N,N′-dibenzyl-diphenyl-diketopyrrolopyrrol
A 100 ml round-bottom flask equipped with a stirrer and reflux condenser is charged with 1.47 g (5.1 mmol) of diphenyl-diketopyrrolopyrrole (hereinafter referred to DPP), 3.44 g (20.1 mmol) of benzyl bromide, 1.38 g (10.0 mmol) of K2CO3 and 50 ml of DMF. Under nitrogen atmosphere, the mixture is stirred and heated at 100° C. for 42.5 hours. The slurry is cooled and the orange solid is isolated by filtration. The solid is washed with water and MeOH, followed by dissolving in hot CHCl3. This CHCl3 solution is applied to silica gel column using CH2Cl2 as eluent. After condensation, 1.21 g of an orange solid is obtained (51%).

reactant | diphenyl-diketopyrrolopyrrole | 5.1 mmol, 1.47 g | C1(=CC=CC=C1)C1=C(N=C2C1=NC(C2=O)=O)C2=CC=CC=C2 | C18H10N2O2
reactant | benzyl bromide | 20.1 mmol, 3.44 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 10.0 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N,N′-dibenzyl-diphenyl-diketopyrrolopyrrol | 1.21 g | C(C1=CC=CC=C1)N1C(C(C2=C1C(=C(N2CC2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C32H24N2O2
